US05973141
To a solution of methyl pheophorbide-a (25 g, 42.5 mmol) in pyridine (1 L) was added distilled water (10 mL, 556 mmol, 13 equiv., 1% v/v) and the mixture was refluxed under argon with stirring. The reaction was monitored by HPLC (hexane-acetone, 90:10-mobile phase, LiChrospherCN-column, detection at 425 and 410 nm). An HPLC of the reaction aliquot after 9 hours of reflux showed 99% completion (by peak area). The solution was cooled to room temperature after 10 hours of reflux and solvent removed under reduced pressure. The residue was precipitated first from methylene chloride-hexane and then methylene chloride/methanol. The solid collected was then purified on a silica gel column, eluted with 2% acetone/methylene chloride. The desired fraction was collected and precipitated from methylene chloride/methanol to give methyl pyropheophorbide-a (20.3 g, 91%).

reactant | methyl pheophorbide-a | 42.5 mmol, 25 g | CCC1=C(C2=CC3=C(C(=C(N3)C=C4N=C(C5=C6NC(=CC1=N2)C(=C6C(=O)C5C(=O)OC)C)C(C4C)CCC(=O)OC)C)C=C)C | C36H38N4O5
solvent | pyridine | 1 L | N1=CC=CC=C1 | C5H5N
product | methyl pyropheophorbide-a | 20.3 g, 91% | CCC1=C(C2=CC3=C(C(=C(N3)C=C4N=C(C5=C6NC(=CC1=N2)C(=C6C(=O)C5)C)[C@H]([C@@H]4C)CCC(=O)OC)C)C=C)C | C34H36N4O3
